Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[O:5][C:6][H:7],7.44309693988
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[H:12],-4.1152757746300015
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10].[O:6],7.95153537336
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:12]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.97552594881
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.82831586756
[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.553973302799999
[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-1.6256295318
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][O:2],2.7625417129
[H:13].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.595278481459999
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][O:8][H:9],-5.80882503091
[C:1].[C:2]([O:3][H:4])[O:5][H:6]>>[C:1]=[C:2]([O:3][H:4])[O:5][H:6],-3.60977627243
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]=[C:4]([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],6.20810227292
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],3.67341738996
[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])[H:10]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],4.78625785124
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.88917042524
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16])([H:8])[H:9].[H:4][C:5]#[C:6][H:7],2.30586881465
[H:1][C:2][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.04092600166
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8].[H:9],4.50672582233
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.39138623503
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.48597537735
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9],3.88225756165
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],5.20580125482
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8],7.656879764389999
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:10]([H:11])[H:12],1.45626099896
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-8.28629699043
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][H:11],3.23502704332
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.57673936802
[C:2]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:3]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-7.3227355005299986
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.67545976371
